US08138345B2
A stirred solution of 1-methyl-2-piperidinone (4.40 mL, 40.0 mmol) in aqueous sodium hydroxide (4 M, 11.0 mL, 44.0 mmol) was heated at 100° C. for 15 h. The reaction mixture was cooled to room temperature and then acidified to pH 2 with concentrated hydrochloric acid. The mixture was then concentrated under reduced pressure to give crude 5-methylaminopentanoic acid as a pinkish white solid. To the crude 5-methylaminopentanoic acid was added MeOH (40.0 mL, 987 mmol) and concentrated hydrochloric acid (0.33 mL, 4.0 mmol). The resulting cloudy solution was heated at 60° C. for 39 h at which time LC-MS showed remaining starting material. Additional concentrated hydrochloric acid (0.33 mL, 4.0 mmol) was added and the resulting mixture was heated at 60° C. for 33 h and then at 65° C. for an additional 24 h. LC-MS showed remaining starting material. The reaction mixture was concentrated under reduced pressure and a solution of hydrogen chloride in MeOH (1.25 M) was added to the residue. The resulting mixture was heated at 60° C. for 72 h at which time no remaining starting material was observed by LC-MS. The reaction mixture was partially concentrated under reduced pressure and the solid material that formed was removed by filtration, washing with MeOH. The filtrate was then concentrated under reduced pressure to provide methyl 5-methylaminopentanoate hydrochloride (7.57 g, 100% yield) as a light yellow solid.

reactant | 5-methylaminopentanoic acid | CNCCCCC(=O)O | C6H13NO2
reactant | MeOH | 987 mmol, 40.0 mL | CO | CH4O
reactant | hydrochloric acid | 4.0 mmol, 0.33 mL | Cl | ClH
reactant | hydrochloric acid | 4.0 mmol, 0.33 mL | Cl | ClH
product | methyl 5-methylaminopentanoate hydrochloride | 7.57 g, 100% yield | Cl.CNCCCCC(=O)OC | InChI=1S/C7H15NO2.ClH/c1-8-6-4-3-5-7(9)10-2;/h8H,3-6H2,1-2H3;1H
